US08461328B2
A mixture of (S)-1-cyanomethyl-pyrrolidine-2-carboxylic acid methyl ester (100 mg, 0.60 mmol) and lithium hydroxide (16 mg, 0.66 mmol) in THF (2 mL) was stirred at ambient temperature for 16 hours. The reaction mixture was concentrated under vacuum and the resulting residue dissolved in water (5 mL) and neutralized with 1M aqueous HCl. The resulting solution was freeze-dried to afford (S)-1-cyanomethyl-pyrrolidine-2-carboxylic acid. 1H NMR (300 MHz, CDCl3) δ: 3.80 (d, 2H), 3.53 (dd, 1H), 3.25 (m, 1H), 2.85 (m, 1H), 2.40-1.94 (m, 4H).

reactant | (S)-1-cyanomethyl-pyrrolidine-2-carboxylic acid methyl ester | 0.60 mmol, 100 mg | COC(=O)[C@H]1N(CCC1)CC#N | C8H12N2O2
reactant | lithium hydroxide | 0.66 mmol, 16 mg | [OH-].[Li+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (S)-1-cyanomethyl-pyrrolidine-2-carboxylic acid | C(#N)CN1[C@@H](CCC1)C(=O)O | C7H10N2O2
